US09284284B2
l) [3-(5-Amino-3-methyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-(6-bromo-benzo[d]isothiazol-3-yl)-amine
To a solution of {5-[3-(6-Bromo-benzo[d]isothiazol-3-ylamino)-phenyl]-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl}-carbamic acid tert-butyl ester (36 mg, 0.07 mmol) in DCM (1 ml) was added at +5° C. 1 ml TFA. After 20 minutes the mixture was quenched with water and EtOH and evaporated. The residue was taken up in EtOAc/THF and washed with soda, dried with K2CO3 and purified by chromatography on silica gel (DCM/5% MeOH, then DCM/5-10% MeOH containing aq NH3) to yield the title compound.

reactant | {5-[3-(6-Bromo-benzo[d]isothiazol-3-ylamino)-phenyl]-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl}-carbamic acid tert-butyl ester | 0.07 mmol, 36 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)NC1=NSC2=C1C=CC(=C2)Br)=O | C23H25BrN4O3S
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | [3-(5-Amino-3-methyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-(6-bromo-benzo[d]isothiazol-3-yl)-amine | NC1=NC(COC1)(C)C=1C=C(C=CC1)NC1=NSC2=C1C=CC(=C2)Br | C18H17BrN4OS
